US03941802
In the manner given in Example 24, 1-[4-(trifluoromethyl)-α-phenyl-0-tolyl]imidazole in acetic acid is heated with Jones' reagent to give 5-(trifluoromethyl)-2-imidazo-1-yl)benzophenone.

reactant | 1-[4-(trifluoromethyl)-α-phenyl-0-tolyl]imidazole | FC(C1=CC(=C(C=C1)CC1=CC=CC=C1)N1C=NC=C1)(F)F | C17H13F3N2
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
